US07262206B2
(3) 5-isobutyryl-2-indolinone
Prepared from 2-indolinone and isobutyryl chloride

reactant | 2-indolinone | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 5-isobutyryl-2-indolinone | C(C(C)C)(=O)C=1C=C2CC(NC2=CC1)=O | C12H13NO2
